US07319101B2
c) 1,2-Bis-benzyloxy-3-bromo-5-trifluoromethyl-benzene
To a solution of 3-bromo-5-trifluoromethyl-benzene-1,2-diol (510 mg, 1.98 mmol) in 10 mL acetone, K2CO3 (2.74 g, 19.84 mmol, 10 eq.) and benzyl bromide (1.02 g, 5.95 mmol, 3 eq.) were added and the solution was refluxed for 4 h. After cooling to r.t., H2O and EtOAc were added to the mixture and the phases were separated The organic fraction was washed with saturated NaCl solution, dried over MgSO4 and evaporated in vacuo. The crude product was purified using flash chromatography (silica gel, hexane/EtOAc 10:1) to yield the title compound as a colorless solid.

reactant | 3-bromo-5-trifluoromethyl-benzene-1,2-diol | 1.98 mmol, 510 mg | BrC1=C(C(=CC(=C1)C(F)(F)F)O)O | C7H4BrF3O2
reactant | K2CO3 | 19.84 mmol, 2.74 g, 10 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 5.95 mmol, 1.02 g, 3 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | H2O | O | H2O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,2-Bis-benzyloxy-3-bromo-5-trifluoromethyl-benzene | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C(F)(F)F)Br)OCC1=CC=CC=C1 | C21H16BrF3O2
